US07413782B2
A mixture of (R)-2,2′-Bis(4-hydroxybenzoyloxy)-1,1′-binaphthalene (5.0 mg, 9.5 mL), 4-[6-(3-ethyloxetan-3-ylmethyloxy)hexyloxy]benzoic acid (7.7 mg, 22.8 mmol), dicyclohexylcarbodiimide (4.7 g, 22.8 mmol), 4-dimethylaminopyridine (0.7 mg, 5.7 mmol) and dichloromethane (100 mL) was stirred at room temperature for 2 hours. The precipitated insoluble was removed through filtration, and the filtrate was concentrated. The residue was purified through column chromatography (silica gel: 1 L, eluent: ethyl acetate/toluene (3/7)) to obtain 7.3 g (yield 58%) of (R)-2,2′-bis[4-[4-[6-(3-ethyloxetan-3-ylmethyloxy)hexyloxy]benzoyloxy]benzoyloxy-1,1′-binaphthalene as a colorless viscous oil. Its 1H-NMR and 13C-NMR well supported its structure. Rf=0.65.

reactant | 4-[6-(3-ethyloxetan-3-ylmethyloxy)hexyloxy]benzoic acid | 22.8 mmol, 7.7 mg | C(C)C1(COC1)COCCCCCCOC1=CC=C(C(=O)O)C=C1 | C19H28O5
reactant | dicyclohexylcarbodiimide | 22.8 mmol, 4.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 5.7 mmol, 0.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-[4-[6-(3-ethyloxetan-3-ylmethyloxy)hexyloxy]benzoyloxy]benzoyloxy-1,1′-binaphthalene | yield 58% | C(C)C1(COC1)COCCCCCCOC1=CC=C(C(=O)OC2=CC(=C(C3=CC=CC=C23)C2=CC=CC3=CC=CC=C23)OC(C2=CC=CC=C2)=O)C=C1 | C46H44O7
